US07612099B2
N-(2-{2-[(4-Hydroxy-2-oxo-2,5-dihydro-furan-3-yl)-phenyl-methyl]-1H-indol-3-yl}-ethyl)-acetamide
Using general procedure C, 4-hydroxy-5H-furan-2-one was reacted with benzaldehyde and N-[2-(1H-indol-3-yl)-ethyl]-acetamide to give the title compound as orange foam. MS: 391.1 ([M+H]+).

reactant | 4-hydroxy-5H-furan-2-one | OC1=CC(OC1)=O | C4H4O3
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | N-[2-(1H-indol-3-yl)-ethyl]-acetamide | N1C=C(C2=CC=CC=C12)CCNC(C)=O | C12H14N2O
product | N-(2-{2-[(4-Hydroxy-2-oxo-2,5-dihydro-furan-3-yl)-phenyl-methyl]-1H-indol-3-yl}-ethyl)-acetamide | OC1=C(C(OC1)=O)C(C=1NC2=CC=CC=C2C1CCNC(C)=O)C1=CC=CC=C1 | C23H22N2O4
